US08541589B2
Step D: 2-(4-(4-Cyanophenyl)pyridin-3-ylthio)-2-methylpropanoic acid
Methanol (1 mL) and aqueous sodium hydroxide solution (2M, 1 mL) were added to ethyl 2-(4-(4-cyanophenyl)pyridin-3-ylthio)-2-methylpropanoate (0.25 g, 0.77 mmol) and stirred at ambient temperature for 2 hours. The volume was reduced (˜1 mL) by rotary evaporation and the resulting residue treated with aqueous HCl (6N) with stirring to pH 6, resulting in formation of a white precipitate, which was isolated by filtration. The solid was washed with water (6×1 mL), air dried for 1 hour and dried under vacuum over P2O5 overnight to give a white powder (0.072 g, 32%).

reactant | sodium hydroxide | 2M, 1 mL | [OH-].[Na+]
reactant | ethyl 2-(4-(4-cyanophenyl)pyridin-3-ylthio)-2-methylpropanoate | 0.77 mmol, 0.25 g | C(#N)C1=CC=C(C=C1)C1=C(C=NC=C1)SC(C(=O)OCC)(C)C | C18H18N2O2S
solvent | Methanol | 1 mL | CO | CH4O
product | 2-(4-(4-Cyanophenyl)pyridin-3-ylthio)-2-methylpropanoic acid | 0.072 g, 32% | C(#N)C1=CC=C(C=C1)C1=C(C=NC=C1)SC(C(=O)O)(C)C | C16H14N2O2S
